US04771046
1.77 g of trisodium phosphorothioate were added to an ice-cooled solution of 2.1 g of 2-(3-methoxyiminopyrrolidin-1-yl)-2-iminoethylchloride hydrochloride in 12 ml of water, and the mixture was stirred at room temperature for about one hour. 9.8 ml of 1N hydrochloric acid were then added, and the mixture was heated at 65° C. for 30 minutes. The resulting solution was concentrated under reduced pressure, the concentrate was mixed with 9.8 ml of isopropanol, insolubles were filtered off, and the filtrate was concentrated under reduced pressure. Ether was added to the concentrate, and the crystals which separated out were collected by filtration and reprecipitated from a mixture of ethanol and ether, giving 1.6 g of 2-(3-methoxyiminopyrrolidin-1-yl)-2-iminoethylmercaptan hydrochloride.

reactant | trisodium phosphorothioate | 1.77 g | P([O-])([O-])([O-])=S.[Na+].[Na+].[Na+]
reactant | 2-(3-methoxyiminopyrrolidin-1-yl)-2-iminoethylchloride hydrochloride | 2.1 g | Cl.CON=C1CN(CC1)C(CCl)=N
reactant | hydrochloric acid | 1N, 9.8 ml | Cl | ClH
solvent | water | 12 ml | O | H2O
product | 2-(3-methoxyiminopyrrolidin-1-yl)-2-iminoethylmercaptan hydrochloride | 1.6 g | Cl.CON=C1CN(CC1)C(CS)=N | InChI=1S/C7H13N3OS.ClH/c1-11-9-6-2-3-10(4-6)7(8)5-12;/h8,12H,2-5H2,1H3;1H
